US04400509
2 ml (9.6 mmoles) of hexamethyldisilazane were added to a refluxing mixture of 1.83 mg (10 mmoles) of saccharin, 10 mg (0.02 mmole) of di-4-nitrophenyl N-(4-toluenesulfonyl)-phosphoramidate and 20 ml of acetonitrile under dry nitrogen and the ammonia evolved was led into water by the nitrogen stream and was titrated with 1 N sulfuric acid. The calculated amount of ammonia was evolved within 0.5 hour and the solvent and other volatile materials were removed by evaporation in a rotating film evaporator. Then, the residue was dried under vacuum to obtain 2.50 g (98%) of trimethylsilylsaccharin melting at 90°-92° C.

reactant | hexamethyldisilazane | 9.6 mmoles, 2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | saccharin | 10 mmoles, 1.83 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | ammonia | N | H3N
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | trimethylsilylsaccharin | 2.50 g, 98% | C[Si](C)(C)N1S(=O)(=O)C2=CC=CC=C2C1=O | C10H13NO3SSi
